US08357693B2
To a suspension of 6-(benzyloxy)-7-methoxy-2-(3-nitrophenyl)quinazolin-4(3H)-one (3.21 g, 7.95 mmol) in trifluoroacetic acid (45 mL) was heated at 75±5° C. for 2.5 h. The volatiles were removed in vacuo and residue was taken up with sat. NaHCO3 solution. A light yellow colored solid separated out, which was collected via filtration. The solid was washed with water and dried under vacuum to give 6-hydroxy-7-methoxy-2-(3-nitrophenyl)quinazolin-4(3H)-one (2.38 g, 7.60 mmol, 96%). HPLC retention time 5.486 min.

reactant | 6-(benzyloxy)-7-methoxy-2-(3-nitrophenyl)quinazolin-4(3H)-one | 7.95 mmol, 3.21 g | C(C1=CC=CC=C1)OC=1C=C2C(NC(=NC2=CC1OC)C1=CC(=CC=C1)[N+](=O)[O-])=O | C22H17N3O5
solvent | trifluoroacetic acid | 45 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 6-hydroxy-7-methoxy-2-(3-nitrophenyl)quinazolin-4(3H)-one | 7.60 mmol, 2.38 g, 96% | OC=1C=C2C(NC(=NC2=CC1OC)C1=CC(=CC=C1)[N+](=O)[O-])=O | C15H11N3O5
